AUPSC
*SPICE Netlist generated by Advanced Sim server on 15.11.2020 21:26:21

*Schematic Netlist:
V5Vpos VCC 0 +5
R2 0 Vout 1k
XU1A Vin Vout VCC 0 Vout AD8028
V1 Vin 0 DC 0 SIN(0 1 1KHz 0 0 0) AC 1 0

.SAVE 0 VCC Vin Vout V1#branch V5Vpos#branch @V1[z] @V5Vpos[z] @R2[i] @R2[p]
.SAVE @V1[p] @V5Vpos[p]

*PLOT TRAN -1 1 A=VCC A=Vin A=Vout
*PLOT OP -1 1 A=VCC A=Vin A=Vout

*Selected Circuit Analyses:
.TRAN 2E-5 0.005 0 2E-5
.OP

*Models and Subcircuits:
.SUBCKT AD8028   1 2 99 50 4
***Differential Stage
Q1	13	12	14	npn
Q2	17	2	16	npn
Rc1	98	13	Rideal	8E-01
Rc2	98	17	Rideal	8E-01
Re1	14	15	Rideal	7.483E-01
Re2	15	16	Rideal	7.483E-01
Ibias	15	51	1.00E+00
Dcmlim1	18	15	DQUIET
Vcmlim1	18	51	-0.174
***Voltage Noise Generation
HVnoise	12	7	Vvnoise	1
VVnoise	501	0	0
DVnoise	501	0	Dvnoise
RVnoise	501	0	0.000895619
***Current Noise Generation on +IN
FInoise1	12	0	VInoise1	1
VInoise1	502	0	0
DInoise1	502	0	DInoise1
RInoise1	502	0	6468.75
***Current Noise Generation on -IN
FInoise2	2	0	VInoise2	1
VInoise2	503	0	0
DInoise2	503	0	DInoise2
RInoise2	503	0	6468.75
***Common Mode Injection
Rcm1	1	601	Rideal	100Meg
Rcm2	2	601	Rideal	100Meg
Gcmr	0	602	601	75	1.00E-06
Rcmr1	602	603	Rideal	1Meg
Rcmr2	603	604	Rideal	3.162E+00
Lcmr	604	0	5.033E-05
Ecmr	10	9	603	0	1.000E+00
***Positive Power Supply Rejection
Epsr1	700	0	98	0	1
Rpsr1	700	701	Rideal	1.00E+02
Rpsr2	701	702	Rideal	5.623E-04
Lpsr1	702	0	4.475E-09
Epsr2	11	10	701	0	1
***Negative Power Supply Rejection
Epsr3	703	0	51	0	1
Rpsr3	703	704	Rideal	1.00E+02
Rpsr4	704	705	Rideal	1.000E-03
Lpsr2	705	0	1.592E-07
Epsr4	12	11	704	0	1
***Input Offset and Bias
Vos	1	7	2.000E-04
Ios	1	2	5.000E-08
***Input Impedance
Cinv	2	0	2.00E-12
Cninv	1	0	2.00E-12
***1st Gain and Slew limiting
Gslew	0	101	17	13	1.0000E+00
Rslew	101	0	Rideal	2.50E+02
Dslew1	101	102	DZENER
Dslew2	0	102	DZENER
***Second Gain and Dominant Pole with Output Voltage Limiting
Gp1	51	201	101	0	5.363E-06
Rp1	201	51	Rideal	1.326E+08
Cp1	201	51	1.50E-12
Vlim1	97	206	0.71
Dlim1	201	206	dquiet
Vlim2	207	52	0.71
Dlim2	207	201	dquiet
Esupref1	97	98	51	0	1
Esupref2	52	51	51	0	1
***Second Pole
Gp2	0	202	201	51	1.00E-03
Rp2	202	0	Rideal	1.00E+03
Cp2	202	0	8.99155E-13
***Third Pole
Gp3	0	203	202	0	1.00E-03
Rp3	203	0	Rideal	1.00E+03
Cp3	203	0	1.32629E-13
***Fourth Pole
Gp4	0	204	203	0	1.00E-03
Rp4	204	0	Rideal	1.00E+03
Cp4	204	0	1.59155E-16
***Fifth Pole
Gp5	0	205	204	0	1.00E-03
Rp5	205	0	Rideal	1.00E+03
Cp5	205	0	1.592E-16
***First Zero
Gz1	0	301	205	0	1.00E-03
Rz1	301	302	Rideal	1.00E+03
Lz1	302	0	1.592E-10
***Second Zero
Gz2	0	303	301	0	1.00E-03
Rz2	303	304	Rideal	1.00E+03
Lz2	304	0	1.592E-10
***Third Zero
Gz3	0	305	303	0	1.00E-03
Rz3	305	306	Rideal	1.00E+03
Lz3	306	0	1.59E-10
***Buffer
Gbuf	0	401	305	0	1.00E-04
Rbuf	401	0	Rideal	1.00E+04
***Output with current limiting
Eout	404	0	401	0	1.000E+00
Rout	404	405	RIDEAL	1.000E+00
Lout	405	406	1.00E-19
Cout	406	0	1.00E-22
Voutmon	406	4	0
Dout1	401	407	Dquiet
Vout1	407	406	-5.300E-01
Dout2	408	401	Dquiet
Vout2	406	408	-5.300E-01
***Voltage reference generator
Eref1	98	0	99	0	1
Eref2	51	0	50	0	1
Rref1	98	901	Rideal	100Meg
Rref2	901	51	Rideal	100Meg
Eref3	75	0	901	0	1
***Supply current correction
Iq	99	50	0.00625
Fsup1	99	0	Voutmon	1
*DZsup1	0	802	DZENER2
*Dsup1	99	802	DQUIET
Fsup2	0	50	Voutmon	-1
*DZsup2	804	0	DZENER2
*Dsup2	804	50	DQUIET
***Dummy Differential Stage
*Q1d	24	12	22	pnp
*Q2d	25	2	23	pnp
*RC1d	24	51	Rideal	0.8000064
*RC2d	25	51	Rideal	0.8000064
*RE1d	22	20	Rideal	0.748305986
*RE2d	23	20	Rideal	0.748305986
*Ibiasd	20	98	1
*Dcmlimd	20	19	DQUIET
*Vcmlimd	98	19	-0.174
***models
.model	Rideal	res T_ABS=27
.model	Rnoise	res T_ABS=27
.model	npn	npn	BF= 124999
.model	dquiet	d
.model	dvnoise	d	KF=1294300
.model	dinoise1	d	KF=2.56
.model	dinoise2	d	KF=2.56
.model	dzener	d	BV=24.5717279641496
.model	dzener2	d	BV=50
.model	PNP	PNP	BF= 124999
.ENDS AD8028

.END
